US09290459B1
Diethyl (4-Cyano-2-fluorophenyl)methylenedicarbamate
In a three-necked round bottom flask equipped with a drying tube filled with calcium chloride and an inlet for nitrogen, 3-fluoro-4-formylbenzonitrile (5.00 g, 33.5 mmol) and ethyl carbamate (6.57 g, 73.7 mmol) are heated at 150° C. The flask is being purged with a flow of nitrogen, and concentrated sulfuric acid (200 μL) is added drop by drop within 10 min. The mixture is heated at 150° C. for 6 h and then cooled at room temperature. The mixture is ground, treated with water (400 mL) and then stirred for 3 h. The precipitate is filtered and dried. Yield: 6.50 g; ESI mass spectrum: [M+Na]+=332; Retention time HPLC: 0.58 min (Z011_S03).

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | 3-fluoro-4-formylbenzonitrile | 33.5 mmol, 5.00 g | FC=1C=C(C#N)C=CC1C=O | C8H4FNO
reactant | ethyl carbamate | 73.7 mmol, 6.57 g | C(N)(OCC)=O | C3H7NO2
product | Diethyl (4-Cyano-2-fluorophenyl)methylenedicarbamate | C(#N)C1=CC(=C(C=C1)C(NC(OCC)=O)NC(OCC)=O)F | C14H16FN3O4
